US05262427
A mixture of 12.1 g (0.1 mol) 3-acetyl pyridine and 15 g (0.11 mol) dimethyl formamide dimethylacetale was heated at 90° C. for 2 h. Upon concentration in vacuo the product was titrated with ethylether and filtrated. The compound was dissolved in 50 ml methanol and 11.5 g (0.1 mol) hydroxylamine-O-sulfonic acid dissolved in 50 ml MeOH was added. The reaction mixture was stirred at room temperature for 2 h, concentrated in vacuo and poured on water (150 ml). The solution was made alkaline with solid potassium carbonate and extracted with 4×40 ml methylenchloride. The organic phase was dried over magnesium sulfate and concentrated in vacuo. The crude product was purified by column chromatography giving 1.5 g 3-(5-isoxazolyl)-pyridine, which was dissolved in 20 ml acetone. 3 ml methyliodide was added to the solution, and the reaction mixture was stirred at room temperature for 24 h. The precipitated compound was filtered and dissolved in 30 ml methanol. To this solution sodiumborohydride (600 mg) was added in small portions. The reaction mixture was concentrated in vacuo and water (100 ml) was added. The water solution was extracted with 3×30 ml methylenchloride. The organic phase was dried over magnesiumsulfate and concentrated in vacuo. Crystallization as the oxalate salt from acetone gave the title compound in a 1.1 g yield. M.p. 164°-165° C.

reactant | 3-acetyl pyridine | 0.1 mol, 12.1 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | dimethyl formamide | 0.11 mol, 15 g | CN(C=O)C | C3H7NO
reactant | hydroxylamine-O-sulfonic acid | 0.1 mol, 11.5 g | NOS(=O)(=O)O | H3NO4S
solvent | MeOH | 50 ml | CO | CH4O
product | 3-(5-isoxazolyl)-pyridine | 1.5 g | O1N=CC=C1C=1C=NC=CC1 | C8H6N2O
